US08729079B2
b: (E)-ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-6-(2-(dimethylamino)vinyl)-2-morpholinopyrimidine-5-carboxylate
Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-6-methyl-2-morpholinopyrimidine-5-carboxylate (350 mg, 0.64 mmol) was dissolved in DMF (5 mL), dimethyl formamide dimethyl acetal (0.26 mL) was added and the mixture was heated to 130° C. for 12 hours. The reaction mixture was poured into water and extracted with EtOAc. The organic layer was washed with water, dried over Na2SO4 and evaporated to give the desired product (0.23 g). 1H NMR (400 MHz, DMSO-d6): δ 10.44 (s, 1H), 7.94 (d, J=12.2 Hz, 1H), 7.55 (d, J=8.8 Hz, 2H), 7.22 (d, J=8.8 Hz, 2H), 5.89 (d, J=12.2 Hz, 1H), 4.30 (q, J=6.8 Hz, 2H), 3.80 (s, 2H), 3.75-3.65 (m, 8H), 3.33 (m, 4H), 3.32 (m, 6H), 2.41 (m, 4H), 1.38 (s, 9H), 1.32 (t, J=6.8 Hz, 3H); MS m/z 596.4 (M+1).

reactant | Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-6-methyl-2-morpholinopyrimidine-5-carboxylate | 0.64 mmol, 350 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)NC1=NC(=NC(=C1C(=O)OCC)C)N1CCOCC1 | C28H40N6O5
reactant | dimethyl formamide dimethyl acetal | 0.26 mL | COC(N(C)C)OC | C5H13NO2
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (E)-ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-6-(2-(dimethylamino)vinyl)-2-morpholinopyrimidine-5-carboxylate | 0.23 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)NC1=NC(=NC(=C1C(=O)OCC)\C=C\N(C)C)N1CCOCC1 | C31H45N7O5
